US07842685B2
A slurry of 2-(4-(1,3-dioxan-2-yl)-2-fluorophenyl)-5-(1-phenylcyclohexyl)thiazolo[5,4-b]pyridine (0.467 g, 0.984 mmol) in 5 mL 1:1 THF/5N HCl was sealed and heated to 80° C. The resulting yellow solution was allowed to stir 3 h, was cooled, and then was treated with ice and 10N NaOH until basic. The reaction mixture was partitioned between EA and water, washed with water, brine, dried over sodium sulfate, filter, concentrate in vacuo to give 3-fluoro-4-(5-(1-phenylcyclohexyl)thiazolo[5,4-b]pyridine-2-yl)benzaldehyde as an oil/solid that contained some starting material. This material was carried on without further pyrification. MS (ESI) m/z: Calculated: 416.1; Observed: 417.1 (M++1).

reactant | 2-(4-(1,3-dioxan-2-yl)-2-fluorophenyl)-5-(1-phenylcyclohexyl)thiazolo[5,4-b]pyridine | 0.984 mmol, 0.467 g | O1C(OCCC1)C1=CC(=C(C=C1)C=1SC2=NC(=CC=C2N1)C1(CCCCC1)C1=CC=CC=C1)F | C28H27FN2O2S
reactant | NaOH | 10N | [OH-].[Na+]
solvent | THF | 5N | C1CCOC1 | C4H8O
product | 3-fluoro-4-(5-(1-phenylcyclohexyl)thiazolo[5,4-b]pyridine-2-yl)benzaldehyde | FC=1C=C(C=O)C=CC1C=1SC2=NC(=CC=C2N1)C1(CCCCC1)C1=CC=CC=C1 | C25H21FN2OS
